US08466176B2
To a solution of 2,6-bis(chloromethyl)pyridine (20 g, 113.6 mmol, 1 eq.) in 250 ml of DMF was added potassium phthalimide (21.04 g, 113.6 mmol, 1 eq.). The reaction was stirred at r.t. overnight then the solvent was evaporated and the residue taken in EtOAc. The insolubles were removed by filtration and the filtrate washed with H2O. The organic layer was separated, dried over MgSO4 and concentrated. The resulting white solid was recrystallised from IPE/EtOAc (1/1) to give 2-{[6-(chloromethyl)pyridin-2-yl]methyl}-1H-isoindole-1,3(2H)-dione (22.34 g, 68% yield) as a white solid.

reactant | 2,6-bis(chloromethyl)pyridine | 113.6 mmol, 20 g, 1 eq. | ClCC1=NC(=CC=C1)CCl | C7H7Cl2N
reactant | potassium phthalimide | 113.6 mmol, 21.04 g, 1 eq. | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 2-{[6-(chloromethyl)pyridin-2-yl]methyl}-1H-isoindole-1,3(2H)-dione | 22.34 g, 68% yield | ClCC1=CC=CC(=N1)CN1C(C2=CC=CC=C2C1=O)=O | C15H11ClN2O2
